US07943652B2
To a solution of (2H-tetrazol-5-yl)-acetic acid ethyl ester (2.0 g, 13 mmol) in 2-methyl-propan-2-ol (2.6 mL) and trifluoroacetic acid (6 mL) was added concentrated sulfuric acid (0.35 mL, 6.4 mmol) and the reaction was stirred at room temperature for 12 h. Ethyl acetate was added and the solution was neutralized by addition of an aqueous sodium hydroxide solution (2 N). The solution was extracted several times with ethyl acetate, and the organic layers were combined, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel column chromatography to provide (2-tert-butyl-2H-tetrazol-5-yl)-acetic acid ethyl ester (2.0 g, 52% yield).

reactant | (2H-tetrazol-5-yl)-acetic acid ethyl ester | 13 mmol, 2.0 g | C(C)OC(CC=1N=NNN1)=O | C5H8N4O2
reactant | sulfuric acid | 6.4 mmol, 0.35 mL | S(O)(O)(=O)=O | H2O4S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | 2-methyl-propan-2-ol | 2.6 mL | CC(C)(C)O | C4H10O
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (2-tert-butyl-2H-tetrazol-5-yl)-acetic acid ethyl ester | 2.0 g, 52% yield | C(C)OC(CC=1N=NN(N1)C(C)(C)C)=O | C9H16N4O2
